US08975400B2
5-formyl-2-((2-(trifluoromethyl)pyridin-4-yl)oxy)benzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 2-fluoro-5-formylbenzonitrile and 2-(trifluoromethyl)pyridine-4-ol.

reactant | 2-fluoro-5-formylbenzonitrile | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
reactant | 2-(trifluoromethyl)pyridine-4-ol | FC(C1=NC=CC(=C1)O)(F)F | C6H4F3NO
product | 5-formyl-2-((2-(trifluoromethyl)pyridin-4-yl)oxy)benzonitrile | C(=O)C=1C=CC(=C(C#N)C1)OC1=CC(=NC=C1)C(F)(F)F | C14H7F3N2O2
